US04739050
2-[4-(3-tert-Butylamino-2-hydroxypropoxy)phenyl]-2-cyano-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 24)
To a stirred suspension of 2-cyano-3,4-dihydro-2-[4-(2,3-epoxypropoxy)phenyl]-4-methyl-3-oxo-2H-1,4-benzothiazine (1.2 g, compound No. 23) in ethanol (15 ml), tert-butylamine (3.6 ml) is added. The mixture is refluxed for 1.5 hours, and concentrated in vacuo to give 1.3 g (74.8%) of the titled compound.

reactant | 2-cyano-3,4-dihydro-2-[4-(2,3-epoxypropoxy)phenyl]-4-methyl-3-oxo-2H-1,4-benzothiazine | 1.2 g | C(#N)C1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)OCC2CO2 | C19H16N2O3S
reactant | tert-butylamine | 3.6 ml | C(C)(C)(C)N | C4H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[4-(3-tert-Butylamino-2-hydroxypropoxy)phenyl]-2-cyano-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzothiazine | 1.3 g, 74.8% | C(C)(C)(C)NCC(COC1=CC=C(C=C1)C1(SC2=C(N(C1=O)C)C=CC=C2)C#N)O | C23H27N3O3S
